### ISSUE TITLE
by_contra returns decidability goal

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover-community/batteries#1196]
In the second example below, `by_contra` generates an unexpected and undesired second goal.
```lean
import Batteries

example : True := by
  by_contra h
  -- 1 goal, as expected

example : True ∧ True := by
  constructor
  · skip
  · by_contra h
    -- first goal is `Decidable True` before the expected goal.
```

**Comment by eric-wieser** [comment]
I think this is a `refine` bug:
```lean
example : True ∧ True := by
  constructor
  · skip
    -- sorry -- deliberately unclosed, uncomment this to make an goal dissappear below
  · refine (Decidable.byContradiction fun h => ?_ :)
    -- why does the other branch affect the state here?
    sorry
    sorry
```

**Comment by fpvandoorn** [comment]
I opened your example as an upstream issue.
